US04675334
1-[2-Hydroxy-3-propyl-4-(4-thiocyanomethylphenylmethoxy)phenyl]ethanone
1-[2-Hydroxy-3-propyl-4-(4-bromomethylphenylmethoxy)phenyl]ethanone (6.4 g; 0.017 m) and potassium thiocyanate (3.3 g; 0.034 m) were dissolved in dry dimethylsulphoxide (60 ml) and stirred at room temperature for 4 hours. The solution was then poured onto water, stirred and filtered to give a white solid; dried at 60° C. under reduced pressure. Recrystallised from ethanol to give a white crystalline solid m.p. 110°-111° C.

reactant | 1-[2-Hydroxy-3-propyl-4-(4-bromomethylphenylmethoxy)phenyl]ethanone | 6.4 g | OC1=C(C=CC(=C1CCC)OCC1=CC=C(C=C1)CBr)C(C)=O | C19H21BrO3
reactant | potassium thiocyanate | 3.3 g | [S-]C#N.[K+]
solvent | dimethylsulphoxide | 60 ml | CS(=O)C | C2H6OS
product | 1-[2-Hydroxy-3-propyl-4-(4-thiocyanomethylphenylmethoxy)phenyl]ethanone | OC1=C(C=CC(=C1CCC)OCC1=CC=C(C=C1)CSC#N)C(C)=O | C20H21NO3S
